US08207177B2
Step e: ((1R,4R)-4-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}cyclopent-2-en-1-yl)methyl sulfamate (Compound I-20)
To a solution of ((1R,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopent-2-en-1-yl)methanol (35.7 mg, 0.103 mmol) and pyridine (0.0417 mL, 0.515 mmol) in AcCN (1.00 mL) at 0° C. under an atmosphere of nitrogen was added dropwise a 2.00 M solution of chlorosulfonamide in AcCN (0.260 mL, 0.520 mmol, as prepared in 1j). The solution was stirred for 1 hour. The reaction was quenched with saturated aqueous sodium bicarbonate solution and partitioned between water and EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 0 to 5% MeOH in DCM to afford the title compound as a solid (28.9 mg, 66%). 1H NMR (400 MHz, CDCl3, δ): 8.36 (s, 1H), 7.35 (d, J=7.2 Hz, 1H), 7.30-7.18 (m, 3H), 6.89 (d, J=3.6 Hz, 1H), 6.32 (d, J=3.5 Hz, 1H), 6.14-6.12 (m, 1H), 6.04-5.97 (m, 2H), 5.89 (br s, 1H), 4.19 (dd, J=1.2, 6.0 Hz, 2H), 3.43-3.37 (m, 1H), 3.09-3.01 (m, 1H), 2.98-2.90 (m, 1H), 2.77-2.69 (m, 1H), 2.46-2.39 (m, 1H), 2.07-1.93 (m, 3H) ppm. LC/MS: Rt=1.24 min, ES+ 426 (FA standard).

reactant | ((1R,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopent-2-en-1-yl)methanol | 0.103 mmol, 35.7 mg | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@H]2C=C[C@@H](C2)CO | C21H22N4O
reactant | pyridine | 0.515 mmol, 0.0417 mL | N1=CC=CC=C1 | C5H5N
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
solvent | AcCN | 1.00 mL | C(=O)(C)C#N | C3H3NO
solvent | AcCN | 0.520 mmol, 0.260 mL | C(=O)(C)C#N | C3H3NO
product | ((1R,4R)-4-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}cyclopent-2-en-1-yl)methyl sulfamate | 28.9 mg, 66% | S(N)(OC[C@H]1C=C[C@@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)(=O)=O | C21H23N5O3S
